US09284333B2
To a solution of (S)-2-methyl-propane-2-sulfinic acid ((S)-1-pyrimidin-2-yl-propyl)-amide (Comp. No. 14a) (1.4 g, 5.8 mmol) in methanol was added 4 M hydrogen chloride in dioxane (4.35 ml) and the mixture was stirred for 1 h at 25° C. Water (100 ml) was added and the aqueous phase was washed with methyl tert-butyl ether. The aqueous layer was freeze-dried to give 0.919 g (75%) of (S)-1-pyrimidin-2-yl-propylamine hydrochloride. LC/MS (method 5): Rt=0.69 min; m/z=138.15 (M+H+).

reactant | (S)-2-methyl-propane-2-sulfinic acid ((S)-1-pyrimidin-2-yl-propyl)-amide | N1=C(N=CC=C1)[C@H](CC)N[S@@](=O)C(C)(C)C | C11H19N3OS
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | Water | 100 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | dioxane | 4.35 ml | O1CCOCC1 | C4H8O2
product | (S)-1-pyrimidin-2-yl-propylamine hydrochloride | 0.919 g, 75% | Cl.N1=C(N=CC=C1)[C@H](CC)N | InChI=1S/C7H11N3.ClH/c1-2-6(8)7-9-4-3-5-10-7;/h3-6H,2,8H2,1H3;1H/t6-;/m0./s1
